US06329389B1
1-[2-(R)-[4-(2-Chlorophenyl)piperazin-1-yl]carbonylamino-3-(R,S)-(N,N-dimethylamino)methyl-3-(indol-3-yl)propanoyl]-1,2,3,4-tetrahydroquinoline
N,N′-Disuccinimidyl carbonate (102 mg) and N-ethyldiisopropylamine (0.14 ml) were added to an acetonitrile (5 ml) solution of 1-[2-(R)-amino-3-(indol-3-yl)propanoyl]-3-(R,S)-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline (150 mg). The reaction mixture was stirred at room temperature for 30 minutes, to which were added an acetonitrile (1 ml) solution of 1-(2-chlorophenyl)piperazine (78 mg) and N-ethyldiusopropylamine (0.07 ml). The reaction mixture was stirred at room temperature for 2 hours. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/hexane=1/1 to 3/1) to obtain the entitled compound (158 mg) as an amorphous powder.

reactant | N,N′-Disuccinimidyl carbonate | 102 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | N-ethyldiisopropylamine | 0.14 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-[2-(R)-amino-3-(indol-3-yl)propanoyl]-3-(R,S)-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline | 150 mg | N[C@@H](C(=O)N1CC(CC2=CC=CC=C12)CN(C)C)CC1=CNC2=CC=CC=C12 | C23H28N4O
reactant | 1-(2-chlorophenyl)piperazine | 78 mg | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[2-(R)-[4-(2-Chlorophenyl)piperazin-1-yl]carbonylamino-3-(R,S)-(N,N-dimethylamino)methyl-3-(indol-3-yl)propanoyl]-1,2,3,4-tetrahydroquinoline | 158 mg | ClC1=C(C=CC=C1)N1CCN(CC1)C(=O)N[C@@H](C(=O)N1CCCC2=CC=CC=C12)C(C1=CNC2=CC=CC=C12)CN(C)C | C34H39ClN6O2
